US07271197B2
1,1′-Carbonyldiimidazole (0.62 g) was added to a solution of (1R)-2-{[2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1-methylethyl]amino}-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol (0.83 g) in THF (8 ml). The mixture was stirred for 18 h at 20° C. and partitioned between Et2O and water. The organic phase was washed with brine, dried (MgSO4) and evaporated to dryness. The residue was purified by chromatography on a Biotage (40 g) eluting with cyclohexane-EtOAc (5:1 then 3:1) to give (5R)-3-[(1S)-2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1-methylethyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (0.32 g), LCMS RT=4.17 min and (5R)-3-[(1R)-2-(4-{[tent-butyl(dimethyl)silyl]oxy}phenyl)-1-methylethyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (0.36 g) LCMS RT=4.15 min.

reactant | 1,1′-Carbonyldiimidazole | 0.62 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (1R)-2-{[2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1-methylethyl]amino}-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 0.83 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC(C)NC[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C27H41NO4Si
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (5R)-3-[(1S)-2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1-methylethyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 0.32 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C[C@H](C)N1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C28H39NO5Si
